US05747486
A mixture of 2-amino-3-(3,4-dimethoxybenzoyl)-4,5-dimethylthiophene (3.6 g), ethyl 4-chloroacetoacetate (2.1 g), concentrated sulfuric acid (0.5 ml) and acetic acid (50 ml) was stirred for two hours at temperature ranging from 90° to 100° C. The reaction mixture was concentrated under reduced pressure. The concentrate was poured into water, which was neutralized with potassium carbonate, followed by extraction with chloroform. The chloroform layer was washed with water and dried (MgSO4), then the solvent was distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel. From the fractions eluted with chloroform-hexane (4:1, v/v), ethyl 6-chloromethyl-4-(3,4-dimethoxyphenyl)-2,3-dimethylthieno[2,3-b]pyridine-5-carboxylate (3.5 g, 67%) was obtained. Recrystallization from ethyl acetate-hexane gave colorless prisms, m.p.162°-163° C.

reactant | 2-amino-3-(3,4-dimethoxybenzoyl)-4,5-dimethylthiophene | 3.6 g | NC=1SC(=C(C1C(C1=CC(=C(C=C1)OC)OC)=O)C)C | C15H17NO3S
reactant | ethyl 4-chloroacetoacetate | 2.1 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | ethyl 6-chloromethyl-4-(3,4-dimethoxyphenyl)-2,3-dimethylthieno[2,3-b]pyridine-5-carboxylate | 3.5 g, 67% | ClCC1=C(C(=C2C(=N1)SC(=C2C)C)C2=CC(=C(C=C2)OC)OC)C(=O)OCC | C21H22ClNO4S
